US04242339
N-Carbethoxyisooxazolidine Trimethylene dibromide (40.4 g; 0.4 mole) and an ethanolic solution (224 ml.) containing potassium hydroxide (22.4 g.; 0.4 mole) are boiled together on a steam bath for six hours. The ethanol is removed by distillation and the residue triturated with ether (3×100 ml.). The combined ether washes are dried over anhydrous magnesium sulfate, filtered and concentrated to give a liquid which is vacuum distilled to give N-carbethoxyisooxazolidine, b.p. 103° C./13 mm.

reactant | N-Carbethoxyisooxazolidine Trimethylene dibromide | 0.4 mole, 40.4 g | C(CCBr)Br.C(=O)(OCC)N1OCCC1
reactant | potassium hydroxide | 0.4 mole, 22.4 g | [OH-].[K+]
product | N-carbethoxyisooxazolidine | C(=O)(OCC)N1OCCC1 | C6H11NO3
